US04144248
Methyl α-methylthio(p-dimethylaminophenyl)acetate (1.215 g) was dissolved in 20 ml of methanol, and 30 ml of a 10% aqueous solution of sodium hydroxide was added. The mixture was stirred at 70° C. for 14 hours. The mixture was acidified to a pH of 5 with conc. hydrochloric acid, and continuously extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure to afford 0.951 g of α-methylthio(p-dimethylaminophenyl)acetic acid in a yield of 83%.

reactant | Methyl α-methylthio(p-dimethylaminophenyl)acetate | 1.215 g | CSC(C(=O)OC)C1=CC=C(C=C1)N(C)C | C12H17NO2S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | α-methylthio(p-dimethylaminophenyl)acetic acid | 0.951 g, yield of 83% | CSC(C(=O)O)C1=CC=C(C=C1)N(C)C | C11H15NO2S
